US06248755B1
Step B: 3-Bromo-2-ethyl-imidazo[1,2-a]pyridine
To a solution of 2-ethyl-imidazo[1,2-a]pyridine (2.17 g, 14.9 mmol) in EtOH (25 mL) was added Br2 (2.0 g, 12.5 mmol) in H2O (5 mL) dropwise at rt. After stirring at rt for 4 h, EtOH was evaporated under reduced pressure. The residue was basified with aqueous NaHCO3 and extracted with CH2Cl2 (3×). The organic phase was washed with brine and dried over anhydrous MgSO4. Concentration followed by flash chromatography chromatography eluting with 20% EtOAc in hexanes, followed by 50% EtOAc in hexanes afforded the title compound (1.88 g) as a viscous oil. 1H NMR (500 MHz, CDCl3): δ 1.36 (t, J=7.5 Hz, 3H), 2.83 (q, J=7.6 Hz, 2H), 6.88 (t, J=6.8 Hz, 1H), 7.20 (m, 1H), 7.55 (dd, J=8.9, 0.9 Hz, 1H), 8.05 (dd, J=6.9, 1.2 Hz, 1H).

reactant | 2-ethyl-imidazo[1,2-a]pyridine | 14.9 mmol, 2.17 g | C(C)C=1N=C2N(C=CC=C2)C1 | C9H10N2
reactant | Br2 | 12.5 mmol, 2.0 g | BrBr | Br2
solvent | EtOH | 25 mL | CCO | C2H6O
solvent | H2O | 5 mL | O | H2O
product | 3-Bromo-2-ethyl-imidazo[1,2-a]pyridine | 1.88 g | BrC1=C(N=C2N1C=CC=C2)CC | C9H9BrN2
